US07553979B2
To a solution of bis(tricyclohexylphosphine)benzylidine ruthenium IV dichloride (39 mg, 0.045 mmol) in dichloromethane (150 ml) at reflux was transferred a solution of 2-hex-5-enyloxy-4,6-dimethoxy-benzoic acid hex-5-enyl ester (430 mg, 1.18 mmol) in dichloromethane (100 ml). After 5 hours at reflux, the solvent was removed and chromatography gave the 1,3-dimethoxy-6,7,8,9,12,13,14,15-octahydro-5,16-dioxa-benzocyclopentadecen-17-one (370 mg).

reactant | 2-hex-5-enyloxy-4,6-dimethoxy-benzoic acid hex-5-enyl ester | 1.18 mmol, 430 mg | C(CCCC=C)OC(C1=C(C=C(C=C1OC)OC)OCCCCC=C)=O | C21H30O5
solvent | dichloromethane | 150 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
product | 1,3-dimethoxy-6,7,8,9,12,13,14,15-octahydro-5,16-dioxa-benzocyclopentadecen-17-one | 370 mg | COC1=CC(=CC2=C1C(OCCCCC=CCCCCO2)=O)OC | C19H26O5
